US07829582B2
R)-4-((R)-benzyl-2-oxo-oxazolidin-3-yl)-3-(4-methoxy-2,6-dichloro-benzyl)-4-oxo-butyraldehyde
Treat a mixture of (R)-4-benzyl-3-[(S)-2-(4-methoxy-2,6-dichloro-benzyl)-pent-4-enoyl]-oxazolidin-2-one (6.65 g, 14.87 mmol), tetrahydrofuran (140 mL) and water (45 mL) with 2.5% osmium tetroxide in t-butanol (378 mL, 1.487 mmol). Add sodium periodate (9.55 g, 44.63 mmol) and stir the reaction 4 hr at room temperature. Quench the reaction with water and extract with ethyl acetate. Wash the organic phase with aqueous 1N sodium thiosulfate then brine. Dry the organic layer over magnesium sulfate, filter, and concentrate under vacuum. Purify the crude material by silica gel chromatography using hexanes:ethyl acetate to elute the pure product. Concentrate the fractions containing product under vacuum to afford 3.35 g (49%) of desired product. MS (m/z): 451 (M+).

reactant | (R)-4-benzyl-3-[(S)-2-(4-methoxy-2,6-dichloro-benzyl)-pent-4-enoyl]-oxazolidin-2-one | 14.87 mmol, 6.65 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](CC=C)CC1=C(C=C(C=C1Cl)OC)Cl)=O | C23H23Cl2NO4
reactant | tetrahydrofuran | 140 mL | O1CCCC1 | C4H8O
reactant | t-butanol | 1.487 mmol, 378 mL | C(C)(C)(C)O | C4H10O
reactant | sodium periodate | 44.63 mmol, 9.55 g | I(=O)(=O)(=O)[O-].[Na+]
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
solvent | water | 45 mL | O | H2O
product | 4-((R)-benzyl-2-oxo-oxazolidin-3-yl)-3-(4-methoxy-2,6-dichloro-benzyl)-4-oxo-butyraldehyde | 3.35 g, 49% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(C(CC=O)CC1=C(C=C(C=C1Cl)OC)Cl)=O | C22H21Cl2NO5
